US07250531B2
Step B: (7-Methoxy-1-naphthyl)acetonitrile
There are introduced into a 670 litre reactor 12.6 kg of 5% palladium-on-carbon in toluene, which is heated at reflux; then 96.1 kg of (7-methoxy-3,4-dihydro-1-naphthalenyl)-acetonitrile dissolved in toluene are added as well as 63.7 kg of allyl methacrylate. The reaction is continued at reflux and is followed by vapour phase chromatography. When all the starting substrate has disappeared, the reaction mixture is cooled to ambient temperature and then filtered. After removal of the toluene by evaporation, the resulting solid residue is recrystallised from an ethanol/water (80/20) mixture to give the title product in a yield of 91% and with a chemical purity exceeding 99%.

reactant | (7-methoxy-3,4-dihydro-1-naphthalenyl)-acetonitrile | 96.1 kg | COC1=CC=C2CCC=C(C2=C1)CC#N | C13H13NO
reactant | allyl methacrylate | 63.7 kg | C(C(=C)C)(=O)OCC=C | C7H10O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | palladium-on-carbon | 12.6 kg | [Pd] | Pd
product | (7-Methoxy-1-naphthyl)acetonitrile | yield of 91% | COC1=CC=C2C=CC=C(C2=C1)CC#N | C13H11NO
